US03972927
In the manner of Example 7, 2-ethylhexylamine was reacted with 3,5-di-t-butyl-4-hydroxybenzoic acid to produce N-(2-ethylhexyl)-3,5-di-t-butyl-4-hydroxybenzamide; melting point 136°-140°C. When tested by the procedure of Example 2, this compound lasted 1000 hours, about 3.3 times as long as the control.

reactant | 2-ethylhexylamine | C(C)C(CN)CCCC | C8H19N
reactant | 3,5-di-t-butyl-4-hydroxybenzoic acid | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
product | N-(2-ethylhexyl)-3,5-di-t-butyl-4-hydroxybenzamide | C(C)C(CNC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)CCCC | C23H39NO2
